US05082856
A ca. 15% solution (18.5 ml) of n-butyllithium in hexane was added dropwise at -50° C. to a tetrahydrofuran suspension (95 ml) of 16.0 g (31.4 mmol) of dodecyltriphenylphosphonium bromide described in Chemistry and Industry (London) p. 1086, 1958. The temperature was raised to room temperature and the mixture was stirred for 30 minutes. The temperature was again lowered to -50° C. To the mixture was added dropwise a tetrahydrofuran solution (50 ml) of 2.4 g (15.7 mmol) of methyl 4-formylpyrrole-2-carboxylate described in Bulletin de la Societe Chimique de France, p. 283, 1972. The mixture was stirred for 1 hour, diluted with water, extracted with ethyl acetate, washed with an aqueous saturated solution of sodium chloride and dried over anhydrous magnesium sulfate. After removing the solvent under reduced pressure, the residue was purified by subjecting it to column chromatography over silica gel (eluent: ethyl acetate/hexane=1/7) to obtain 3.11 g (65% yield) of methyl 4-(1-cis-tridecenyl)pyrrole-2-carboxylate, m.p. 51°-52° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | tetrahydrofuran | 95 ml | O1CCCC1 | C4H8O
reactant | dodecyltriphenylphosphonium bromide | 31.4 mmol, 16.0 g | [Br-].C(CCCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | methyl 4-formylpyrrole-2-carboxylate | 15.7 mmol, 2.4 g | C(=O)C=1C=C(NC1)C(=O)OC | C7H7NO3
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | methyl 4-(1-cis-tridecenyl)pyrrole-2-carboxylate | 3.11 g, 65% yield | C(=C/CCCCCCCCCCC)/C=1C=C(NC1)C(=O)OC | C19H31NO2
